US04910190
a. 4-(4-Aminocarbonylphenoxy)butanoic acid ethyl ester
A mixture of p-hydroxyphenylacetamide (3.8 g), ethyl 4-bromobutyrate (3.6 ml) and K2CO3 (3.45 g) was stirred for 12 hr in DMF (30 ml). The mixture was diluted with water (100 ml); the solid was filtered and air dried. Crystallization of the solid from ethanol gave 4 g (60%) of the title compound as white crystals; mp 144.5°-145.5°.

reactant | p-hydroxyphenylacetamide | 3.8 g | C1=CC(=CC=C1CC(=O)N)O | C8H9NO2
reactant | ethyl 4-bromobutyrate | 3.6 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | K2CO3 | 3.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-(4-Aminocarbonylphenoxy)butanoic acid ethyl ester | 4 g, 60% | C(C)OC(CCCOC1=CC=C(C=C1)C(=O)N)=O | C13H17NO4
